US04525476
A solution of 7.0 g (0.05 mol) of dihydro-1H-3,5(2H,6H)dioxopyrrolizidine in 150 ml of acetonitrile is treated with 14.05 g (0.075 mol) L-Leucine 1,1-dimethylethyl ester. The mixture is refluxed 24 hours. The solution is concentrated under reduced pressure and the resulting oil is chromatographed over silica gel using elution with 2.5% methanol in dichloromethane. After concentration at reduced pressure, the oil is rechromatographed over silica gel using 19:1 dichloromethane:methanol. The eluate is concentrated at reduced pressure and heated at 80° C. to yield N-[1-oxo-3-(5-oxo-2-pyrrolidinyl)-propyl]-L-leucine, 1,1-dimethylethyl ester as an analytically pure oil with the following characteristic proton NMR spectrum: 1H-NMR(CDCL3) 0.92(d, 6H), 1.42 (s, 9H), 1.4-1.9 (m, 5H), 2.2-2.4 (m, 7H), 3.5-3.8 (m, 1H), 4.2-4.5 (m, 1H), 6.25-6.5 (m, 1H).

reactant | L-Leucine 1,1-dimethylethyl ester | 0.075 mol, 14.05 g | CC(C)(C)OC([C@@H](N)CC(C)C)=O | C10H21NO2
reactant | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-[1-oxo-3-(5-oxo-2-pyrrolidinyl)-propyl]-L-leucine, 1,1-dimethylethyl ester | O=C(CCC1NC(CC1)=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C | C17H30N2O4
